US06626982B1
Duplicate amounts (11.7 and 24.2 mg respectively) of the 427 and 207 μmol/g Z-Trp-NH2/Florisil™ samples were weighed into glass vials. DMSO (0.5 ml) was added to each vial and the vials were agitated gently for 15 min to give a nominal concentration of 10 mM of Z-Trp-NH2. Aliquots from each vial were diluted 100-fold with CH3CN and analysed by RP-HPLC monitoring by UV at 230 ηM. The peak areas obtained for the desorbed Z-Trp-NH2 DMSO solutions were compared with those obtained using a 10 mM control soln of Z-Trp-NH2 in DMSO similarly diluted. The results are given in table 3

reactant | Z-Trp-NH2 Florisil | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N)C(=O)OCC1=CC=CC=C1.[O-][Si](=O)[O-].[Mg+2]
solvent | DMSO | 0.5 ml | CS(=O)C | C2H6OS
product | Z-Trp-NH2 | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N)C(=O)OCC1=CC=CC=C1 | C19H19N3O3
